US08071592B2
(b) 1,1-Dimethylethyl {1-[2-(4-cyano-7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate
To a solution of 1-{2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}-7-fluoro-2-oxo-1,2-dihydro-4-quinolinyl trifluoromethanesulfonate (0.17 g, 0.32 mmol) in DMF (10 ml) was added zinc cyanide (0.036 g, 0.3 mmol), tris(dibenzylideneacetone)dipalladium (0.022 g, 0.024 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (0.056 g, 0.1 mmol) and degassed with argon. The mixture was heated at 90° C. for 18 h. The solution was allowed to cool then separated between ethyl acetate and brine. The organics were dried and concentrated then the residues combined with the crude from a similar experiment conducted on half the scale. Chromatography of the combined material over silica (10 g SPE gradient elution with ethyl acetate/methanol 0-3%) provided a brown oil which solidified as the title compound (0.113 g, 46%).

reactant | 1-{2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}-7-fluoro-2-oxo-1,2-dihydro-4-quinolinyl trifluoromethanesulfonate | 0.32 mmol, 0.17 g | FC(S(=O)(=O)OC1=CC(N(C2=CC(=CC=C12)F)CCN1CCC(CC1)NC(=O)OC(C)(C)C)=O)(F)F | C22H27F4N3O6S
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.3 mmol, 0.036 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.024 mmol, 0.022 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.1 mmol, 0.056 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1,1-Dimethylethyl {1-[2-(4-cyano-7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate | 0.113 g, 46% | C(#N)C1=CC(N(C2=CC(=CC=C12)F)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C22H27FN4O3
